US06410539B1
A mixture of methyl 5-azidomethyl-2-(4-fluorobenzyl)benzoate (3.23 g), 10% palladium on carbon (0.5 g), 1M. ethereal HCl (20 ml) and methanol (100 ml) was stirred under an atmosphere of hydrogen for 6 hours. The catalyst was filtered off and the filtrate was evaporated to dryness. The residue was treated with saturated aqueous sodium bicarbonate (100 ml) and extracted with ethyl acetate. The solution obtained was dried and evaporated to dryness to give methyl 5-aminomethyl-2-(4-fluorobenzyl)benzoate as a colourless gum (2.7 g).

reactant | methyl 5-azidomethyl-2-(4-fluorobenzyl)benzoate | 3.23 g | N(=[N+]=[N-])CC=1C=CC(=C(C(=O)OC)C1)CC1=CC=C(C=C1)F | C16H14FN3O2
reactant | HCl | 20 ml | Cl | ClH
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | methyl 5-aminomethyl-2-(4-fluorobenzyl)benzoate | 2.7 g | NCC=1C=CC(=C(C(=O)OC)C1)CC1=CC=C(C=C1)F | C16H16FNO2
